US09302998B2
STEP B: ethynyl-(4-morpholin-4-yl-benzyl)-carbamic acid t-butyl ester
TBAF (2.18 g, 6.9 mmol) was added to a solution of (4-morpholin-4-yl-benzyl)-[(triisopropylsilanyl)-ethynyl]-carbamic acid t-butyl ester (1.42 g, 3 mmol) in THF (23 ml) at 0° C. The mixture was stirred for 1 hour at this temperature and was then warmed to RT. H2O (15 ml) was added and the organic phase was extracted with Et2O (3×15 ml) and dried over Na2SO4. The solvent was removed under reduced pressure and the desired compound was obtained after purification by column chromatography (PE/AcOEt:80/20 to 75/25). The title compound was obtained as a yellow solid.

reactant | TBAF | 6.9 mmol, 2.18 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | (4-morpholin-4-yl-benzyl)-[(triisopropylsilanyl)-ethynyl]-carbamic acid t-butyl ester | 3 mmol, 1.42 g | C(C)(C)(C)OC(N(C#C[Si](C(C)C)(C(C)C)C(C)C)CC1=CC=C(C=C1)N1CCOCC1)=O | C27H44N2O3Si
reactant | H2O | 15 ml | O | H2O
solvent | THF | 23 ml | C1CCOC1 | C4H8O
product | ethynyl-(4-morpholin-4-yl-benzyl)-carbamic acid t-butyl ester | Yield: 60% | C(C)(C)(C)OC(N(CC1=CC=C(C=C1)N1CCOCC1)C#C)=O | C18H24N2O3
